data/rdb19/train.csv
rxn,smiles,ea
3161,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([H:7])([H:8])[H:9].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])([H:11])[C:23]([C:22]([C:21]([H:27])([H:28])[H:29])([H:30])[H:31])([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33],75.81109315523645
4654,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([C:17]([H:25])[H:26])([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27],36.94530672061956
526,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:1]([O:2][O:3][C:7]([C:8]([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:12])[H:13])([H:4])([H:5])[H:6],20.256549813319
835,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:23]([C:21]([O:20][C:19]([H:26])([H:27])[H:28])([C:22]([H:30])([H:31])[H:32])[H:29])([H:24])[H:25],18.014403226494323
1376,[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([H:16])=[C:17]([C:18]([H:26])([H:27])[H:28])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:24])[H:6],51.49138470744947
2887,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7][H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][C:23]([C:21]([C:19]([O:18][C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])=[O:20])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25],25.73058964696247
3547,[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([H:9])([H:10])[O:21][C:20]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])[H:26])([H:6])([H:7])[H:8],55.7570946123451
1746,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:16]([C:15]([H:21])([H:22])[H:23])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],59.39539758930914
729,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19](=[C:20]([H:21])[H:22])([H:24])[H:25].[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:23],77.06164491636446
3506,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22][c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:30])([H:9])[H:10])([H:6])([H:7])[H:8],27.52027834008913
4739,[C:1]([H:2])([H:3])[H:4].[C:5](=[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])[H:15])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[H:15].[C:5](=[C:6][c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:13])[H:14],21.721709170087703
